Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tape ___
 
Attending: ___.
 
Chief Complaint:
leg swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of leg swelling, squamous skin cancer 
presenting with weeping bilateral legs.  
 Patient woke up this AM and noted that her sheets were soaked 
with clear fluid from her legs. Legs were also enlarged. She 
does not weigh her self daily. She denies any associated leg 
pain or purulent nature of the drainage. She denies any 
shortness of breath, PND, orthopnea.  
 She does note 1 episode this morning at 7 AM of blurriness in 
her left eye that lasted for 30 minutes and was not associated 
with slurred speech, facial drooping, or weakness. She notes 
this has happened in the past. She reports having an ophtho exam 
last week that was normal.  
 Patient called PCP, referred to BID urgent care at 
___. There BNP was 191. CT head negative for acute 
intracranial process.  
 On arrival to ___ ED vitals noted to be:  
 97.5 76 134/89 18 97% RA  
 Labs notable for:  
 WBC 6.5, Hg 13.7, platelets 173. Na 140, K 3.8, Cl 102, bicarb 
27, BUN 14, Cr 0.7. Trop X 1 negative. BNP 191.  
 Patient given 40 mg IV lasix.  
 CXR showed:  
 Mild cardiomegaly with mitral annular calcification. No signs 
of pneumonia or edema. 
 
Past Medical History:
1. Osteoporosis. 
2. Hypertension. 
3. Peripheral edema. 
4. Osteoarthritis. 
5. Urinary incontinence. 
6. Allergic rhinitis

PSHx:
1. Status post right total knee replacement. 
2. Status post left hip ORIF. 
3. Status post left carpal tunnel release. 
4. Status post removal of ovarian cyst. 
5. Status post cataract extractions, ___ 
 
Social History:
___
Family History:
Father with "heart problem" unknown what type. 
 
Physical Exam:
Admission Physical Exam:
========================
VS - Temp. 97.8, HR 88, BP 134/74, RR 20  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 GU: foley in place  
 EXTREMITIES: no cyanosis, moving all 4 extremities with 
purpose, 3+ lower extremity edema to the knees bilaterally. 
Significant enlargement of bilateral lower extremities in 
symmetric distribution with associated overlying erythema 
bilaterally non-tender to palpation.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact, ___ strength in upper extremities, ___ 
strength in lower extremities (secondary to weight of edematous 
legs)  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

Discharge Physical Exam:
========================
VS - 97.6 (98.6) 124/53 (124/53-149/67) 67 (67-88) 18 97% RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 GU: foley in place  
 EXTREMITIES: no cyanosis, moving all 4 extremities with 
purpose, 3+ lower extremity edema to the knees bilaterally. 
Significant enlargement of bilateral lower extremities in 
symmetric distribution with associated overlying erythema 
bilaterally non-tender to palpation.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: grossly intact 
 SKIN: warm and well perfused 
 
Pertinent Results:
Admission Labs:
===============
___ 04:00PM BLOOD WBC-6.5 RBC-4.29 Hgb-13.7 Hct-41.7 MCV-97 
MCH-31.9 MCHC-32.9 RDW-12.9 RDWSD-46.4* Plt ___
___ 04:00PM BLOOD Neuts-41.2 ___ Monos-6.5 Eos-1.4 
Baso-0.8 Im ___ AbsNeut-2.68 AbsLymp-3.24 AbsMono-0.42 
AbsEos-0.09 AbsBaso-0.05
___ 04:00PM BLOOD ___ PTT-30.7 ___
___ 04:00PM BLOOD Glucose-96 UreaN-14 Creat-0.7 Na-140 
K-3.8 Cl-102 HCO3-27 AnGap-15
___ 05:20AM BLOOD ALT-7 AST-15 AlkPhos-81 TotBili-0.6
___ 04:00PM BLOOD cTropnT-<0.01 proBNP-191
___ 05:20AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.2

Imaging:
========
___ CXR:
1. No acute intracranial abnormality. 
2. No evidence of acute intracranial hemorrhage or large 
territorial infarct. 
3.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct.

___ CT Head:
1. No acute intracranial abnormality. 
2. No evidence of acute intracranial hemorrhage or large 
territorial infarct. 
3.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct.

Discharge Labs:
===============
___ 05:20AM BLOOD WBC-6.5 RBC-3.90 Hgb-12.2 Hct-37.4 MCV-96 
MCH-31.3 MCHC-32.6 RDW-13.2 RDWSD-46.6* Plt ___
___ 05:20AM BLOOD Glucose-92 UreaN-14 Creat-0.7 Na-142 
K-4.0 Cl-105 HCO3-29 AnGap-___ with history of leg swelling, squamous skin cancer who 
presented with worsening lower extremity edema.
  
# Lower extremity edema  
Patient presenting with acute on chronic bilateral lower 
extremity edema with associated reported weeping of her legs. 
Likely due to venous stasis with possible component of 
lymphedema. Normal BNP, UA without proteinuria, and normal LFTs. 
She received 40mg IV Lasix in the ED. She was discharged with a 
prescription for compression stockings.
  
# Left eye blurriness: Patient with isolated episode of left eye 
blurriness that self resolved without other symptoms to suggest 
TIA. Neurologic exam currently normal. CT head non-contrast was 
within normal limits. Patient does have known macular 
degeneration/cataracts. Recent eye exam per patient report 
within normal limits. Monitored without further recurrence.

Transitional Issues:
====================
-provided with prescription for compression stockings. Will need 
further outpatient followup regarding tolerability, need for 
size adjustment   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QHS 
2. Furosemide 40 mg PO 2X/WEEK (___) 
3. Acetaminophen 1000 mg PO Q12H PRN pain 
4. Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500-100-40 
mg-unit-mcg oral TID 
5. Vitamin D 400 UNIT PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Senna 8.6 mg PO DAILY 
8. neomycin-polymyxin B-dexameth 3.5mg/mL-10,000 unit/mL-0.1 % 
ophthalmic daily 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q12H PRN pain 
2. Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500-100-40 
mg-unit-mcg oral TID 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Furosemide 40 mg PO 2X/WEEK (___) 
5. Senna 8.6 mg PO DAILY 
6. Vitamin D 400 UNIT PO DAILY 
7. comp.stocking,thigh,long,med. 2 stockings miscellaneous DAILY 

Please supply one set of compression stockings, medium, thigh 
length, approximately 20 mmHg 
RX *comp.stocking,thigh,long,med.  Wear stockings on both legs 
daily Disp #*2 Each Refills:*0
8. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QHS 
9. neomycin-polymyxin B-dexameth 3.5mg/mL-10,000 unit/mL-0.1 % 
ophthalmic daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: chronic venous stasis, vision changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came in with swelling in your legs. We think this is due to 
leaking from the veins. The best way to treat this is with 
compression stockings. These stockings help squeeze the fluid 
out of your legs. We are giving you a prescription for the 
stockings, which you can take to any medical device store to 
have fitted.

One example of a medical supply store is ___. They 
have a location on ___. Their number is 
___. There may also be other medical device stores 
closer to you.

We have not made any changes to your medications.

Please follow up with Dr. ___ in clinic on ___.
 
Followup Instructions:
___